US05073564
Under a nitrogen atmosphere a solution of 20.0 grams (0.143 mole) of 4-chlorobenzaldehyde and 19.7 grams (0.142 mole) of diethyl phosphite was stirred at ambient temperature for 4 days. Gas chromatographic analysis of the reaction mixture indicated the reaction had not gone to completion. Ten ml of triethylamine was added, and the reaction mixture was stirred at ambient temperature for an additional 4 days. Gas chromatographic analysis of the reaction mixture indicated the reaction mixture still had not gone to completion. The reaction mixture was warmed to 40°-50° C. where it was stirred for 24 hours. After this time the reaction mixture was concentrated under reduced pressure, yielding 39.2 grams of diethyl (4-chlorophenyl)hydroxymethylphosphonate.

reactant | 4-chlorobenzaldehyde | 0.143 mole, 20.0 grams | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | diethyl phosphite | 0.142 mole, 19.7 grams | P(OCC)(OCC)[O-]
solvent | triethylamine | Ten ml | C(C)N(CC)CC | C6H15N
product | diethyl (4-chlorophenyl)hydroxymethylphosphonate | 39.2 grams | ClC1=CC=C(C=C1)C(O)P(OCC)(OCC)=O | C11H16ClO4P
